US07338960B2
1-(6-Bromo-2-pyridinyl)-2-(ethyloxy)ethanol
To a solution of n-butyllithium (1.6M in hexanes, 4.19 mL, 6.70 mmol) in anhydrous THF (4.0 mL) under nitrogen at −78° C. was added a solution of 2,6-dibromopyridine (1.59 g, 6.71 mmol) in anhydrous THF (9.5 mL) drop-wise over 1 h. The resulting dark green solution was stirred at −78° C. for 15 min and then treated with N-ethyl-2-(ethyloxy)-N-(phenylmethyl)acetamide (1.93 g, 8.70 mmol), washing in with anhydrous THF (1.0 mL). The resulting green solution was stirred at −78° C. for 15 min and was then treated with a solution of AcOH (0.42 mL) in MeOH (7.00 mL) to give a orange solution which was then treated with NaBH4 (0.38 g, 10.04 mmol). This mixture was removed from the cooling bath and allowed to warm to room temperature over 2 h. The mixture was then treated with saturated aqueous. NH4Cl (50 mL) and the products extracted with EtOAc (2×50 mL). The combined organic layer was then washed with brine (100 mL), dried (MgSO4) and the reduced in vacuo to give a yellow oil. Purification by SPE (silica, 20 g cartridge) eluting with cyclohexane:EtOAc (gradient 50:1 to 1:1) afforded the title compound as a white solid (612 mg).

reactant | n-butyllithium | 6.70 mmol, 1.6M, 4.19 mL | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 6.71 mmol, 1.59 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | N-ethyl-2-(ethyloxy)-N-(phenylmethyl)acetamide | 8.70 mmol, 1.93 g | C(C)N(C(COCC)=O)CC1=CC=CC=C1 | C13H19NO2
reactant | NaBH4 | 10.04 mmol, 0.38 g | [BH4-].[Na+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 9.5 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-2-pyridinyl)-2-(ethyloxy)ethanol | 612 mg | BrC1=CC=CC(=N1)C(COCC)O | C9H12BrNO2
